US08445509B2
Production of benzyl [4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-2-fluorophenyl]carbamate
To a solution of benzyl {4-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]-2-fluorophenyl}carbamate (12.1 g, 30.9 mmol) in N,N-dimethylacetamide (84.7 mL) was added cyclopropanecarbonyl chloride (3.36 mL, 37.0 mmol) at 0° C., and the mixture was stirred at room temperature for 2 hr. Water and saturated aqueous sodium hydrogen carbonate were added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the residue was washed with ethyl acetate and collected by filtration to give the title compound (9.7 g, 68%) as a thin-brown solid.

reactant | benzyl {4-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]-2-fluorophenyl}carbamate | 30.9 mmol, 12.1 g | NC=1N=C2N(C=C(C=C2)OC2=CC(=C(C=C2)NC(OCC2=CC=CC=C2)=O)F)C1 | C21H17FN4O3
reactant | cyclopropanecarbonyl chloride | 37.0 mmol, 3.36 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | Water | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 84.7 mL | CN(C(C)=O)C | C4H9NO
product | benzyl [4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-2-fluorophenyl]carbamate | 9.7 g, 68% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=CC(=C(C=C2)NC(OCC2=CC=CC=C2)=O)F)C1 | C25H21FN4O4
